US07365085B2
c) [2-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-ethylamino]-acetic acid hydrochloride salt
To a stirring solution of [2-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-ethylamino]-acetic acid methyl ester (70 mg, 0.11 mmol) in THF (10 ml) and water (3.3 ml) was added lithium hydroxide monohydrate (12 mg, 0.28 mmol). The resulting mixture was stirred at room temperature for 18 hours and acidified with HCl (0.5 ml, 1 M in water). The crude mixture was concentrated in vacuo and then extracted with EtOAc (3×). The combined organic layers were washed with brine (1×), dried over sodium sulfate, filtered and concentrated in vacuo. Preparative HPLC (YMC 75×30 mm, 25 ml/min, 25-100% CH3CN) afforded the title compound as the free base. The diamine was treated with 1 M HCl in Et2O (0.11 ml, 0.11 mmol), and the Et2O was evaporated to afford the title compound as an off-white solid, 31 mg (45%). MS(ES) m/e 625.4 (M+).

reactant | [2-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-ethylamino]-acetic acid methyl ester | 0.11 mmol, 70 mg | COC(CNCCC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C36H38ClF3N2O3
reactant | lithium hydroxide monohydrate | 0.28 mmol, 12 mg | O.[OH-].[Li+]
reactant | HCl | 1 M, 0.5 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 3.3 ml | O | H2O
product | [2-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-ethylamino]-acetic acid hydrochloride salt | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)CCNCC(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C35H36ClF3N2O3.ClH/c36-34-29(15-8-17-32(34)35(37,38)39)24-41(25-31(27-11-3-1-4-12-27)28-13-5-2-6-14-28)20-9-21-44-30-16-7-10-26(22-30)18-19-40-23-33(42)43;/h1-8,10-17,22,31,40H,9,18-21,23-25H2,(H,42,43);1H
